US06268518B1
3.5 g of formalin (37% solution, 43.1 mmol) was added to a mixture of 10.0 g of indene (86.2 mmol) and 2.9 g of EtONa (43.1 mmol) in 100 mL of DMF. The reaction mixture was stirred at room temperature for 12 hours. A solution of HCl (1 M, 50 mL) was added. The mixture was extracted with CH2Cl2 (2×100 mL) and the organic phases combined, washed with a saturated solution of NaCl and then with water, dried over MgSO4, filtered and finally concentrated to yield bis(1-indenyl)methane as a viscous brown liquid (89% yield by GC). Vacuum distillation yielded the pure product as a yellow viscous oil (b.p. 160-180° C. at 1.2 mmHg, 3.65 g, 35% yield), which can be recrystallized from pentane.

reactant | formalin | 43.1 mmol, 3.5 g | C=O | CH2O
reactant | indene | 86.2 mmol, 10.0 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | EtONa | 43.1 mmol, 2.9 g | CC[O-].[Na+]
reactant | HCl | 1 M, 50 mL | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | bis(1-indenyl)methane | 89% yield | C1(C=CC2=CC=CC=C12)CC1C=CC2=CC=CC=C12 | C19H16
